US07915305B2
Method F: Methyl 3-(1-(2-chlorophenyl)ethoxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thiophene-2-carboxylate (Intermediate 4)
2.5 M n-BuLi in hexanes (2.3 mL, 5.77 mmol, 1.5 Eq.) was added dropwise to a stirred solution of diisopropylamine (815 μL, 5.77 mmol, 1.5 Eq.) in anhydrous THF (20 mL) at −78° C. under nitrogen. The reaction was stirred at this temperature for 15 minutes then warmed to 0° C. for 30 minutes. The reaction was cooled to −78° C. and a solution of methyl 3-(1-(2-chlorophenyl)ethoxy)thiophene-2-carboxylate (1.14 g, 3.84 mmol, 1.0 Eq.) in anhydrous THF (10 mL) was added dropwise. After stirring at this temperature for 10 minutes, a solution of 2-isopropoxy-4,4,5,5-tetramethyl[1,3,2]-dioxaborolane (1.78 mL, 5.77 mmol, 1.0 Eq.) in anhydrous THF (10 mL) was added dropwise and stirred at −78° C. for 15 minutes then warmed to ambient temperature for 45 minutes. 1M HCl (30 mL) was added and the mixture extracted with EtOAc (3×40 mL). The combined organic extracts were washed with brine (30 mL), dried (MgSO4) and the solvent removed in vacuo. The residue was recrystalised from cyclohexane to give the sub-title compound as a white solid (837 mg, 1.98 mmol, 51%); 1H NMR (400 MHz, CDCl3) δ 1.38 (12H, s), 1.67 (3H, d), 3.90 (3H, s), 5.80 (1H, quint), 7.18 (1H, s), 7.21-7.7.34 (2H, m), 7.38 (1H, dd), 7.77 (1H, dd).

reactant | n-BuLi | 2.5 M | [Li]CCCC
reactant | diisopropylamine | 5.77 mmol, 815 μL, 1.5 Eq. | C(C)(C)NC(C)C | C6H15N
reactant | methyl 3-(1-(2-chlorophenyl)ethoxy)thiophene-2-carboxylate | 3.84 mmol, 1.14 g, 1.0 Eq. | ClC1=C(C=CC=C1)C(C)OC1=C(SC=C1)C(=O)OC | C14H13ClO3S
reactant | 2-isopropoxy-4,4,5,5-tetramethyl[1,3,2]-dioxaborolane | 5.77 mmol, 1.78 mL, 1.0 Eq. | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
reactant | HCl | 1M, 30 mL | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Methyl 3-(1-(2-chlorophenyl)ethoxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thiophene-2-carboxylate | 1.98 mmol, 837 mg, 51% | ClC1=C(C=CC=C1)C(C)OC1=C(SC(=C1)B1OC(C(O1)(C)C)(C)C)C(=O)OC | C20H24BClO5S
